US06124287
A mixture of 5.0 g of 2,3-dichloroquinoxaline and 5.5 ml of aminoacetaldehyde dimethyl acetal in 75 ml of ethanol is refluxed for 4 h. After concentrating under vacuum, the resulting mixture is added with water and extracted with ethyl acetate. The organic extracts are then washed with saturated NaCl, dried and evaporated. The residue is finally chromatographed on SiO2 (eluent: CH2Cl2), thereby obtaining 5.0 g of 2-chloro-3-(2,2-dimethoxyethylamino)quinoxaline (IR (KBr): 3347, 2936, 1580, 1523, 1129 cm-1). 4.5 g of this product are then treated with 20 ml of 48% HBr and the mixture is refluxed for 4 h. After cooling down, the mixture is neutralized with aqueous NaOH and the resulting precipitate is filtered under vacuum and dried to obtain 3.2 g of imidazo[1,2-a]quinoxalin-4(5H)-one (m.p. >300° C.)

reactant | 2,3-dichloroquinoxaline | 5.0 g | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | aminoacetaldehyde dimethyl acetal | 5.5 ml | COC(CN)OC | C4H11NO2
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-chloro-3-(2,2-dimethoxyethylamino)quinoxaline | 5.0 g | ClC1=NC2=CC=CC=C2N=C1NCC(OC)OC | C12H14ClN3O2
